US04579862
3-Bromopyridine (3.5 g, 0.022 mol) in dry tetrahydrofuran (5 ml) was added dropwise to a stirred solution of t-butyllithium (1.4M, 15.7 ml, 0.022 mol) in dry tetrahydrofuran (100 ml) at -100° C. under nitrogen atmosphere. The resultant solution was stirred for 20 min and cuprous iodide-trimethyl phosphite complex (6.9 g, 0.022 mol) in dry tetrahydrofuran (15 ml) added. After a further 10 min, 2,3-epoxypropyl-4-methoxybenzyl ether (4.27 g, 0.022 mol) in dry tetrahydrofuran (10 ml) was added and the mixture allowed to warm up from -100° to 20° C. over 3 hours and left to stir overnight at room temperature. The mixture was quenched with saturated aqueous ammonium chloride and evaporated in vacuo. The solid was extracted with ethyl acetate (300 ml), washed with water and dried (MgSO4). Filtration and evaporation of solvent in vacuo gave a crude oil which was purified by column chromatography (silica gel/chloroform). Recrystallisation from ether/pentane gave pure 1-(3-pyridyl)-3-[(4-methoxyphenyl)methoxy]propan-2-ol as a colourless crystalline solid, m.p. 55°-56°.

reactant | 3-Bromopyridine | 0.022 mol, 3.5 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | t-butyllithium | 0.022 mol, 1.4M, 15.7 ml | C(C)(C)(C)[Li]
reactant | 2,3-epoxypropyl-4-methoxybenzyl ether | 0.022 mol, 4.27 g | O1C(CC(C2=CC=C(C=C2)OC)OC(C2=CC=C(C=C2)OC)CC2CO2)C1 | C22H26O5
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-pyridyl)-3-[(4-methoxyphenyl)methoxy]propan-2-ol | N1=CC(=CC=C1)CC(COCC1=CC=C(C=C1)OC)O | C16H19NO3
